US07737152B2
2-(3,4,5-Trimethoxyphenylamino)-6-[4-(4-trifluoromethyl-phenylcarbonyl)-aminophenyl]-pyrazine, CJS 496
Using Method LL with 2-(3,4,5-trimethoxyphenylamino)-6-(4-aminophenyloxy)-pyrazine (50 mg, 0.14 mmol) and 4-trifluoromethyl-phenylcarbonyl chloride (35 mg, 0.17 mmol), and purification by column chromatography (AcOEt), the title compound was obtained (34 mg). Yield: 46%. 1H NMR (250 MHz, DMSO-d6) δ 3.65 (s, 3H, [CH3O]4), 3.85 (s, 6H, [CH3O]3+5), 7.28 (s, 2H, Harom2′+6′), 7.95 (d, 4H, Harom 3+5 and Harom 2″+6″ J=8.5 Hz), 8.15-8.21 (m, 4H, and Harom 2+6, Harom 3″+5″ and HPz 5), 8.53 (s, 1H, HPz 3), 9.57 (s, 1H, NH), 10.66 (s, 1H, NHamide). m/z 525.2 [(M+H)+ calcd for C27H23F3N4O4 524.2].

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-(4-aminophenyloxy)-pyrazine | 0.14 mmol, 50 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)OC1=CC=C(C=C1)N | C19H20N4O4
reactant | 4-trifluoromethyl-phenylcarbonyl chloride | 0.17 mmol, 35 mg | FC(C1=CC=C(C=C1)C(=O)Cl)(F)F | C8H4ClF3O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 2-(3,4,5-Trimethoxyphenylamino)-6-[4-(4-trifluoromethyl-phenylcarbonyl)-aminophenyl]-pyrazine | Yield: 46% | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)C1=C(C=C(C=C1)C(=O)C1=CC=C(C=C1)C(F)(F)F)N | C27H23F3N4O4
